* Z:\mnt\design.r\spice\examples\1614.asc
C1 N002 N003 1µ
C2 N004 0 680p
V1 N001 0 5
R1 OUT N006 29.4K
R2 N006 0 10.0K
R3 N005 N004 100K
D1 N003 0 MBRS140
C3 0 OUT 22µ Rser=0.02
L1 OUT N003 10µ Rser=0.02 Rpar=5000
L2 N001 N002 10µ Rser=0.02 Rpar=5000
XU1 N006 N005 N001 0 N002 N001 N007 N008 LT1614
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
K1 L1 L2 1
.lib LT1614.sub
.backanno
.end
